// Generated for: spectre (Apr 19 14:29:28 2013 )
// Library name: gsclib045_lvt
// Cell name: ADDFX2
// View name: schematic

simulator lang=spectre

subckt ADDFX2 A B CI CO S VSS VDD
mp9 (n8 A VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp10 (n9 B n8 VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f ps=710n \
        pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp11 (Sb CI n9 VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp13 (S Sb VDD VDD) g45p1lvt w=(780n) l=45n nf=1 as=109.2f ad=109.2f \
        ps=1.84u pd=1.84u nrd=179.487m nrs=179.487m sa=140n sb=140n \
        sd=160n sca=80.49887 scb=0.07059 scc=0.00954 m=(1)
mp12 (CO COb VDD VDD) g45p1lvt w=(780n) l=45n nf=1 as=109.2f ad=109.2f \
        ps=1.84u pd=1.84u nrd=179.487m nrs=179.487m sa=140n sb=140n \
        sd=160n sca=80.49887 scb=0.07059 scc=0.00954 m=(1)
mp1 (COb B n1 VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f ps=710n \
        pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp0 (n1 A VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp2 (n3 A VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp4 (COb CI n3 VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp5 (n5 A VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp6 (n5 B VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp7 (n5 CI VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp3 (n3 B VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp8 (Sb COb n5 VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mn9 (n6 A VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn10 (n7 B n6 VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f ps=570n \
        pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn11 (Sb CI n7 VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn13 (S Sb VSS VSS) g45n1lvt w=(520n) l=45n nf=1 as=72.8f ad=72.8f \
        ps=1.32u pd=1.32u nrd=269.231m nrs=269.231m sa=140n sb=140n \
        sd=160n sca=98.28759 scb=0.08111 scc=0.01166 m=(1)
mn12 (CO COb VSS VSS) g45n1lvt w=(520n) l=45n nf=1 as=72.8f ad=72.8f \
        ps=1.32u pd=1.32u nrd=269.231m nrs=269.231m sa=140n sb=140n \
        sd=160n sca=98.28759 scb=0.08111 scc=0.01166 m=(1)
mn1 (COb B n0 VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f ps=570n \
        pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn2 (n2 A VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn0 (n0 A VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn7 (n4 CI VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn8 (Sb COb n4 VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn3 (n2 B VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn6 (n4 B VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn5 (n4 A VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn4 (COb CI n2 VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
ends ADDFX2
// End of subcircuit definition.

