// Generated for: spectre (Apr 19 14:29:53 2013 )
// Library name: gsclib045_lvt
// Cell name: AND4X6
// View name: schematic

simulator lang=spectre

subckt AND4X6 A B C D Y VSS VDD
mp3 (net116 D VDD VDD) g45p1lvt w=(780n) l=45n nf=1 as=109.2f ad=109.2f \
        ps=1.84u pd=1.84u nrd=179.487m nrs=179.487m sa=140n sb=140n \
        sd=160n sca=80.49887 scb=0.07059 scc=0.00954 m=(1)
mp2 (net116 C VDD VDD) g45p1lvt w=(780n) l=45n nf=1 as=109.2f ad=109.2f \
        ps=1.84u pd=1.84u nrd=179.487m nrs=179.487m sa=140n sb=140n \
        sd=160n sca=80.49887 scb=0.07059 scc=0.00954 m=(1)
mp1 (net116 B VDD VDD) g45p1lvt w=(780n) l=45n nf=1 as=109.2f ad=109.2f \
        ps=1.84u pd=1.84u nrd=179.487m nrs=179.487m sa=140n sb=140n \
        sd=160n sca=80.49887 scb=0.07059 scc=0.00954 m=(1)
mp4 (Y net116 VDD VDD) g45p1lvt w=(2.35u) l=45n nf=1 as=329f ad=329f \
        ps=4.98u pd=4.98u nrd=59.5745m nrs=59.5745m sa=140n sb=140n \
        sd=160n sca=54.64759 scb=0.05560 scc=0.00670 m=(1)
mp0 (net116 A VDD VDD) g45p1lvt w=(780n) l=45n nf=1 as=109.2f ad=109.2f \
        ps=1.84u pd=1.84u nrd=179.487m nrs=179.487m sa=140n sb=140n \
        sd=160n sca=80.49887 scb=0.07059 scc=0.00954 m=(1)
mn3 (net116 D net132 VSS) g45n1lvt w=(520n) l=45n nf=1 as=72.8f ad=72.8f \
        ps=1.32u pd=1.32u nrd=269.231m nrs=269.231m sa=140n sb=140n \
        sd=160n sca=98.28759 scb=0.08111 scc=0.01166 m=(1)
mn2 (net132 C net128 VSS) g45n1lvt w=(520n) l=45n nf=1 as=72.8f ad=72.8f \
        ps=1.32u pd=1.32u nrd=269.231m nrs=269.231m sa=140n sb=140n \
        sd=160n sca=98.28759 scb=0.08111 scc=0.01166 m=(1)
mn4 (Y net116 VSS VSS) g45n1lvt w=(1.55u) l=45n nf=1 as=217f ad=217f \
        ps=3.38u pd=3.38u nrd=90.3226m nrs=90.3226m sa=140n sb=140n \
        sd=160n sca=61.52026 scb=0.05946 scc=0.00743 m=(1)
mn1 (net128 B net124 VSS) g45n1lvt w=(520n) l=45n nf=1 as=72.8f ad=72.8f \
        ps=1.32u pd=1.32u nrd=269.231m nrs=269.231m sa=140n sb=140n \
        sd=160n sca=98.28759 scb=0.08111 scc=0.01166 m=(1)
mn0 (net124 A VSS VSS) g45n1lvt w=(520n) l=45n nf=1 as=72.8f ad=72.8f \
        ps=1.32u pd=1.32u nrd=269.231m nrs=269.231m sa=140n sb=140n \
        sd=160n sca=98.28759 scb=0.08111 scc=0.01166 m=(1)
ends AND4X6
// End of subcircuit definition.

